US08426420B2
iii) 5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 10.0 g 5-hydroxy-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester in 100 ml DMF were added 7.1 ml benzyl bromoacetate and 24.0 g cesium carbonate. After stirring for 16 h at RT the suspension was filtered, washed with DMF and concentrated. The residue was taken up with ethyl acetate and extracted with aqueous LiCl (4%). Evaporation of the solvent yielded the crude product which was used in the subsequent debenzylation. Yield: 15.5 g yellow oil.

reactant | 5-hydroxy-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 10.0 g | C(C)OC(=O)C1=NN(C(=C1)O)C1=CC=CC=C1 | C12H12N2O3
reactant | benzyl bromoacetate | 7.1 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 24.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C21H20N2O5
